US08309542B2
(c) Methyl (3RS,4RS)-1-benzyl-4-methyl-pyrrolidine-3-carboxylate
1.3 g (4.9 mmol) (3RS,4RS)-1-benzyl-4-methyl-pyrrolidine-3-carboxylic acid (as hydrochloride salt) are dissolved in 10 ml of methanol and combined with 0.6 ml (8.5 mmol) thionyl chloride while cooling with an ice bath. The ice bath is removed and the mixture is refluxed for three hours. Then the mixture is evaporated down i. vac. and combined with 1N sodium hydroxide solution. The aqueous phase is extracted three times with ethyl acetate. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac.

reactant | (3RS,4RS)-1-benzyl-4-methyl-pyrrolidine-3-carboxylic acid | 4.9 mmol, 1.3 g | C(C1=CC=CC=C1)N1CC(C(C1)C)C(=O)O | C13H17NO2
reactant | thionyl chloride | 8.5 mmol, 0.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 10 ml | CO | CH4O
product | Methyl (3RS,4RS)-1-benzyl-4-methyl-pyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1CC(C(C1)C)C(=O)OC | C14H19NO2
